US04409229
A mixture of 3.0 g of 1,3-dihydro-1'-phenoxycarbonyl-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine], Example 3, 8.0 g of potassium hydroxide pellets in 50 ml of ethylene glycol is stirred at 155° C. until a clear solution results. The solution is permitted to cool, diluted with water and the biphasic mixture extracted thrice with chloroform. The combined chloroform extracts are washed carefully with water and dried and the chloroform removed leaving a solid residue. The residue is recrystallized from an acetone-hexane to give prisms, mp 142°-144° C. of 1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine].

reactant | 1,3-dihydro-1'-phenoxycarbonyl-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine] | 3.0 g | O(C1=CC=CC=C1)C(=O)N1CCC2(CC1)SC(C1=C2C=CC=C1)C1=CC=CC=C1 | C25H23NO2S
reactant | potassium hydroxide | 8.0 g | [OH-].[K+]
solvent | ethylene glycol | 50 ml | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine] | C1(=CC=CC=C1)C1C2=C(C=CC=C2)C2(CCNCC2)S1 | C18H19NS
